US07687535B2
ii) 5-amino-2-methyl-1H-indole-1-acetic acid, ethyl ester
A suspension of 2-methyl-5-nitro-1H-indole-1-acetic acid, ethyl ester (6.2 g) in ethanol (600 ml) in the presence of 10% palladium on charcoal (0.6 g) was stirred under a hydrogen atmosphere at 3 bar for 4 hours. The mixture was filtered through celite and the filtrate evaporated to give the sub-title compound as a pink viscous oil (5.3 g).

reactant | 2-methyl-5-nitro-1H-indole-1-acetic acid, ethyl ester | 6.2 g | CC=1N(C2=CC=C(C=C2C1)[N+](=O)[O-])CC(=O)OCC | C13H14N2O4
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.6 g | [Pd] | Pd
product | 5-amino-2-methyl-1H-indole-1-acetic acid, ethyl ester | 5.3 g | NC=1C=C2C=C(N(C2=CC1)CC(=O)OCC)C | C13H16N2O2
